US09314023B2
Under ice-cooling, to a mixture of N,N-dimethylformamide 200 ml and aluminium trichloride 5.91 g was added sodium azide 2.64 g, and the resulting mixture was stirred for one hour. Thereto was then added 1-difluoromethoxy-3-isocyanato-2-methylbenzene 7.36 g and the reaction mixture was heated to 75° C. and was stirred for nine hours. The reaction mixture was cooled and under ice-cooling to the reaction mixture was added ice water 50 ml, followed by an addition of a mixture of sodium nitrite 4.1 g and water 100 ml. The resulting mixture was acidified with concentrated hydrochloric acid to make it pH about 4. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated saline and then was dried over anhydrous magnesium sulfate and was then concentrated under reduced pressure. To the resulting residues containing 1-(2-methyl-3-difluoromethoxyphenyl)-1,4-dihydrotetrazole-5-one was added N,N-dimethylformamide 100 ml, potassium carbonate 7.66 g, dimethyl sulfate 9.32 g, and the resulting mixture was stirred at room temperature for four hours. Thereto was added water 100 ml, and the resulting mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated saline, and dried over anhydrous magnesium sulfate and was then concentrated under reduced pressure. The resulting residue was subjected to a silica gel column chromatography to give 1-(2-methyl-3-difluoromethoxyphenyl)-4-methyl-1,4-dihydrotetrazole-5-one 1.0 g.

reactant | aluminium trichloride | 5.91 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | sodium azide | 2.64 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-difluoromethoxy-3-isocyanato-2-methylbenzene | 7.36 g | FC(OC1=C(C(=CC=C1)N=C=O)C)F | C9H7F2NO2
reactant | sodium nitrite | 4.1 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 1-(2-methyl-3-difluoromethoxyphenyl)-4-methyl-1,4-dihydrotetrazole-5-one | 1.0 g | CC1=C(C=CC=C1OC(F)F)N1N=NN(C1=O)C | C10H10F2N4O2
